data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_114425_1,[C:1](/[C:4](=[C:3]([C:5](=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])/[H:11])\[O:7][H:9])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([O:8][H:10])[C:3]([O:7][H:9])=[C:5]([H:11])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],43.446217499991775
MR_543506_1,[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[O:5][H:10])=[O:9])([O:6][H:11])([O:7][H:12])[O:8][H:13]>>[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[O:5][H:10])([O:8][H:13])[O:9][H:12])([O:6][H:11])=[O:7],33.882490000061125
MR_546477_1,[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:3]([H:12])([H:13])[O:7][C:2]([O:8][H:9])([H:11])[N:6]1[H:10]>>[C:1]([C:3]([O:7][C:2]([N:6]([H:10])[H:17])([O:8][H:9])[H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])=[C:5]([H:18])[H:19],72.79502000001386
MR_625257_0,[C:1]([N:2](/[C:4](=[N:7]\[H:10])[H:11])[O:5][C:3]([O:6][H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([N:2]1[C@@:3]([O:6][H:9])([O:8][C:4]([N:7][H:10])[H:11])[O:5]1)([H:12])([H:13])[H:14],72.45993500000381
MR_451395_0,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]/[N:4]([H:8])[H:9])([O:5][H:7])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@@:3]([C:2]([H:12])([H:13])[H:14])([N:6]([N:4]([H:8])[H:9])[H:7])[O:5]1,48.7460824999512
MR_423909_1,[C:1]([C:5](=[C:6]([H:17])[H:18])[H:13])(/[N:7]=[C:3]([C:2]([H:14])([H:15])[H:16])\[C:4](=[N:8]/[H:9])[H:12])([H:10])[H:11]>>[C:1](=[N:7][C:3]1([C:2]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:13])([H:12])[N:8]1[H:9])([H:10])[H:11],66.5777500000165
MR_539037_1,[C:1]([N:3](/[C:4](=[C:5](/[C:2]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])[O:8][H:10])[C:7](=[O:9])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:4](\[C@:5]([C:2]([H:17])([H:18])[H:19])([N:6]([H:11])[H:12])[C:7](=[O:9])[H:13])[O:8][H:10])([H:14])([H:15])[H:16],60.58136000003216
MR_375484_1,[C:1]([C:2](=[O:6])[H:14])([C:3]([N:4]([H:10])[H:11])([O:7][H:8])[H:15])([N:5]([H:12])[H:13])[H:9]>>[C:1]([C:2]([O:6][H:8])([H:14])[H:15])([C:3]([N:4]([H:10])[H:11])=[O:7])([N:5]([H:12])[H:13])[H:9],46.112464999965965
MR_310234_1,[C:1]([N:2]([O:5][H:8])[O:6][H:9])(/[C:4](=[C:3](/[O:7][H:10])[H:13])[H:14])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:2]([O:5][H:8])[C@:4]1([C:3]([O:6][H:9])([O:7][H:10])[H:13])[H:14],61.74223500002611
MR_92804_2,[C@@:1]1([C:2]([H:10])([H:11])[H:12])([H:8])[O:5][O:4][C:3]([H:7])([H:9])[O:6]1>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:5][O:4][C:3](=[O:6])[H:7])([H:8])[H:9],56.06335999998919
MR_410491_0,[C:1]([C:3]([N:6]=[C:2]([O:4][H:8])[O:5][H:9])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[N:6][C:2]([O:4][H:8])([O:5][H:9])[O:7]1)([H:10])([H:11])[H:12],37.76922500002144
MR_667810_0,[C:1](\[C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])([C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[O:9][H:13])(=[N:7]/[H:12])[H:11]>>[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])([C:5]([C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])=[O:9])([N:7]([H:12])[H:13])[H:11],29.814407499987965
MR_495977_0,[C:1](/[N:6]=[C:3](/[N:2]([C:4](=[O:7])[H:10])[H:9])[O:5][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:6](/[C:3](=[N:2]/[H:9])[O:5][H:8])[C:4](=[O:7])[H:10])([H:11])([H:12])[H:13],44.75078999997962
MR_307308_1,[C@:1]([C:3]([C:5](=[C:6]([H:17])[H:18])[O:8][H:12])=[O:9])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:10])([O:7][H:11])[H:13]>>[C@@:1]([C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:10])=[O:9])([C:5](=[C:6]([H:17])[H:18])[O:8][H:12])([O:7][H:11])[H:13],54.91817250002697
MR_405349_1,[C:1]([C:5](=[C:4]([N:8]([H:11])[H:12])[N:9]([H:13])[H:14])/[C:6]([C:2]([H:20])([H:21])[H:22])=[C:7](/[C:3]([H:23])([H:24])[H:25])[N:10]([H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:5]1=[C:6]([C:2]([H:20])([H:21])[H:22])[C:7]([C:3]([H:23])([H:24])[H:25])([N:10]([H:15])[H:16])[C:4]1([N:8]([H:11])[H:12])[N:9]([H:13])[H:14])([H:17])([H:18])[H:19],46.23608249997488
MR_219017_2,[N:1](/[C:2]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:14])([N:3]([H:8])[H:9])[H:7]>>[N:1]1([H:7])[C:2]([N:4]([H:10])[H:11])([C:6]([N:5]([H:12])[H:13])([H:9])[H:14])[N:3]1[H:8],63.648579999992734
MR_338087_1,[C:1]1([H:10])([H:11])[C:5]([C:4]([N:3]([H:8])[H:9])([H:12])[H:18])([H:13])[C:6]1([C:7](=[C:2]([H:16])[H:17])[H:15])[H:14]>>[C:1](/[C:5](=[C:4](/[N:3]([H:8])[H:9])[H:12])[H:13])(/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])([H:10])[H:11],35.23788999999198
MR_184391_1,[C:1]([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])(/[C:5](=[N:6]\[C:2]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9]>>[C:1](=[C:5]([N:6]([C:2]([H:11])([H:12])[H:13])[C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])[H:10])([H:8])[H:9],63.49986249997585
MR_145458_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[N:6][N:3](/[C:5](=[N:7]\[H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:7]\[H:9])[H:10])/[N:6]=[N:3]/[H:8])([H:11])([H:12])[H:13],72.08155249999606
MR_119667_0,[C:1](\[N:2]([H:7])[H:8])(=[C:4](/[N:3]([H:9])[H:10])[H:11])[O:5][H:6]>>[C:1](=[N:2]/[H:7])(\[C:4]([N:3]([H:9])[H:10])([H:8])[H:11])[O:5][H:6],52.73761000000363
